US08563735B2
4′-chlorobiphenyl-2-carbaldehyde
To 2-bromobenzaldehyde (2.3 ml) and tetrakis(triphenylphosphine)palladium(0) (0.35 g) in toluene (50 mL), was added 4-chlorophenylboronic acid (4.0 g) and 2M Na2CO3 (70 ml). The mixture was heated under reflux for one hour. The reaction was cooled, diluted with water and extracted with ethyl acetate. The organic layer was washed with brine and the combined aqueous layers back-extracted with ethyl acetate. The combined organic layers were dried over Na2SO4. The crude material was purified by flash chromatography using 97.5/2.5 hexane/ethyl acetate.

reactant | 2-bromobenzaldehyde | 2.3 ml | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 4-chlorophenylboronic acid | 4.0 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 2M, 70 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.35 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-chlorobiphenyl-2-carbaldehyde | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C13H9ClO
